US07759385B2
The diastereoisomer mixture of (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester (519 mg, 1.47 mmole) was added to a solution of 3-pyrrolidine-3-yl-1H-indole (274 mg, 1.47 mmole) in dioxane (12 ml). The reaction mixture was then boiled under reflux for 12 hours. The reaction mixture was worked up by distilling off the solvent. The residue contained, apart from phenol, also the two diastereoisomers of 3-(1H-indol-3-yl)pyrrolidine-1-carboxylic acid-(4-dimethyl amino-4-phenylcyclohexylmethyl)-amide. The diastereoisomers were separated and purified by flash chromatography on silica gel (50 g). Methanol/EE (1:1; 1000 ml) was used as eluent. The non-polar diastereoisomer of 3-(1H-indol-3-yl)pyrrolidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (234 mg, m.p. 101°-103° C., 36%) and the polar diastereoisomer of 3-(1H-indol-3-yl)pyrrolidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide (244 mg, m.p. 103°-106° C., 37%) were thereby obtained in pure form.

reactant | (4-dimethylamino-4-phenylcyclohexylmethyl)-carbamic acid phenyl ester | 1.47 mmole, 519 mg | C1(=CC=CC=C1)OC(NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C)=O | C22H28N2O2
reactant | 3-pyrrolidine-3-yl-1H-indole | 1.47 mmole, 274 mg | N1CC(CC1)C1=CNC2=CC=CC=C12 | C12H14N2
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 3-(1H-indol-3-yl)pyrrolidine-1-carboxylic acid-(4-dimethylamino-4-phenylcyclohexylmethyl)-amide | 244 mg, 37% | CN(C1(CCC(CC1)CNC(=O)N1CC(CC1)C1=CNC2=CC=CC=C12)C1=CC=CC=C1)C | C28H36N4O
